US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-2-(2-chlorophenylimino)-3-methyl-4-thiazoline
10.8 g of 4-(4-chloro-3-dimethylsulfamoylphenyl)-2-(2-chlorophenyl-imino)-3-methylthiazolidin-4-ol hydrobromide are heated at the boil in a mixture of 100 ml of methanol and 10 ml of triethylamine for 30 minutes and the reaction mixture is then poured into an equal volume of water. The resulting mixture is stirred for about 2 hours at room temperature and the crystals are filtered off and recrystallized from ethanol. Melting point 153°-156° C.

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-2-(2-chlorophenyl-imino)-3-methylthiazolidin-4-ol hydrobromide | 10.8 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=C(C=CC=C1)Cl)C)O)S(N(C)C)(=O)=O
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-2-(2-chlorophenylimino)-3-methyl-4-thiazoline | ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=C(C=CC=C1)Cl)C)S(N(C)C)(=O)=O | C18H17Cl2N3O2S2
